US04077956
(a) 5-Chloro-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester
92.5 gms. of 5-hydroxy-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester, together with 300 ml. of phosphorus oxychloride and 3 ml. of dimethylformamide are refluxed for 5 hours. After distilling off the phosphorus oxychloride, the reaction mixture is poured onto ice and the crude 5-chloro-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid ethyl ester, is filtered under suction, then recrystallized from acetone, yield 83 gms. of white crystals, m.p. 130°-132°.

reactant | 5-hydroxy-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester | OC=1C=2N(C3=C(N1)C(=NN3C)C)N=CC2C(=O)OCC | C12H13N5O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-Chloro-1,3-dimethyl-1H-dipyrazolo[1,5-a:4',3'-e]pyrazine-6-carboxylic acid, ethyl ester | ClC=1C=2N(C3=C(N1)C(=NN3C)C)N=CC2C(=O)OCC | C12H12ClN5O2
